US05039701
5-Acetyl-4,7-dimethoxy-6-[3-((2-(3,4-dimethoxyphenyl)-ethyl)-methylamino)propoxy]-benzofuran
39 g of 5-acetyl-6-hydroxy-4,7-dimethoxybenzofuran are refluxed with 40 g of 3-chloropropyl-(2-(3,4-dimethoxyphenyl)-ethyl)-methylamine in 250 ml of methyl ethyl ketone for 14 hours. The mixture is filtered, the solvent is stripped off and the oily residue is dissolved in dilute HCl. The aqueous phase is washed with ether, rendered alkaline with dilute sodium hydroxide solution and extracted with ether. Stripping off the solvent gives 45 g of crude oily product which is further reacted without purification.

reactant | 5-acetyl-6-hydroxy-4,7-dimethoxybenzofuran | 39 g | C(C)(=O)C=1C(=C(C2=C(C=CO2)C1OC)OC)O | C12H12O5
reactant | 3-chloropropyl-(2-(3,4-dimethoxyphenyl)-ethyl)-methylamine | 40 g | ClCCCN(C)CCC1=CC(=C(C=C1)OC)OC | C14H22ClNO2
solvent | methyl ethyl ketone | 250 ml | C(C)C(=O)C | C4H8O
product | 5-Acetyl-4,7-dimethoxy-6-[3-((2-(3,4-dimethoxyphenyl)-ethyl)-methylamino)propoxy]-benzofuran | C(C)(=O)C=1C(=C(C2=C(C=CO2)C1OC)OC)OCCCN(C)CCC1=CC(=C(C=C1)OC)OC | C26H33NO7
